US04178449
3-Cyano-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-2-acetonitrile
A mixture of 2.94 g. of 5-amino-4-cyano-3-cyanomethyl pyrazole and 4.86 g. of 3-dimethylamino-3'-trifluoromethylacrylophenone in 25 ml. of glacial acetic acid is refluxed for 16 hours. The reaction mixture is evaporated to dryness and then extracted with methylene chloride. This solution is washed with a saturated sodium bicarbonate solution and dried with sodium sulfate. After passage of this solution through a short column of hydrous magnesium silicate, the effluent from this column is refluxed with gradual addition of hexane until the product crystallizes. Filtration gives crystals, m.p. 180°-181° C.

reactant | 5-amino-4-cyano-3-cyanomethyl pyrazole | NC1=C(C(=NN1)CC#N)C#N | C6H5N5
reactant | 3-dimethylamino-3'-trifluoromethylacrylophenone | CN(C=CC(=O)C1=CC(=CC=C1)C(F)(F)F)C | C12H12F3NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Cyano-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-2-acetonitrile | C(#N)C=1C(=NN2C1N=CC=C2C=2C=C(C=CC2)C(F)(F)F)CC#N | C16H8F3N5
